US08071586B2
A) 3-[tert-Butoxycarbonyl-((R)-2-hydroxy-1-methyl-ethyl)-amino]-propionic acid ethyl ester
At 0° C. ethyl acrylate (1.33 g, 13.3 mmol) was added to D-alaninol (1.00 g, 13.3 mmol). The homogeneous solution was stirred at room temperature for 16 h, then dichloromethane (20 ml) and di-tert-butyl-dicarbonate (3.20 g, 14.7 mmol) were added, then after 4 h the solution was evaporated. Chromatography (SiO2; heptane/ethyl acetate gradient) produced the title compound (3.50 g, 95%). Colorless liquid, MS (ISP)=276.2 (M+H)+.

reactant | ethyl acrylate | 13.3 mmol, 1.33 g | C(C=C)(=O)OCC | C5H8O2
reactant | D-alaninol | 13.3 mmol, 1.00 g | N[C@H](C)CO | C3H9NO
reactant | di-tert-butyl-dicarbonate | 14.7 mmol, 3.20 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-[tert-Butoxycarbonyl-((R)-2-hydroxy-1-methyl-ethyl)-amino]-propionic acid ethyl ester | 3.50 g, 95% | C(C)OC(CCN([C@@H](CO)C)C(=O)OC(C)(C)C)=O | C13H25NO5
